US04764205
5-(2-Hydroxyphenyl)-1,3,4-oxadiazol-2(3H)-one
To a solution of 10 g of salicylhydrazide in 100 ml of p-dioxane was added dropwise 13.1 g of trichloromethyl chloroformate while maintaining the temperature at 20°-30° C. with external cooling. After stirring at 25° C. for 0.5 hours, the suspension was refluxed for 4 hours then cooled to 25° C. and poured into excess ice-water. The mixture was filtered and the residue was recrystallized from acetonitrile to yield 9.0 g of the subject compound; m.p. 198°-200° C.

reactant | salicylhydrazide | 10 g | C(C=1C(O)=CC=CC1)(=O)NN | C7H8N2O2
reactant | trichloromethyl chloroformate | 13.1 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | p-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-(2-Hydroxyphenyl)-1,3,4-oxadiazol-2(3H)-one | 9.0 g | OC1=C(C=CC=C1)C1=NNC(O1)=O | C8H6N2O3
